Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
codeine / Percocet / latex / adhesive tape / some plastics
 
Attending: ___
 
Chief Complaint:
History of breast cancer now with nodal disease
 
Major Surgical or Invasive Procedure:
1. Lymphovenous Bypass x 2
2. On table lymphangiogram with interpretation
3. Under aseptic conditions today 50 cc of sterile saline was 
injected into bilateral tissue expanders
4. Left axillary nodal dissection

 
History of Present Illness:
___ year old female with history of left breast cancer who 
recently underwent bilateral mastectomy with sentinel lymph node 
biopsy and insertion of bilateral tissue expanders.  The 
pathology on 1 of 2 left axillary nodes returned as metastatic 
carcinoma.  The patient was met with Dr. ___, Dr. ___ 
Dr. ___ decided to have left axillary lymph node 
dissection with a lymphovenous bypass to decrease risk of left 
upper extremity lymphedema.  Plan will be to aggressively fill 
the tissue expanders until she starts radiation therapy.
 
Past Medical History:
- Essential Tremor  
- Insomnia  
- Migraines HA  
- Irritable bowel syndrome  
- Hx of abdominal hernia  
- Hx of anxiety - no hx of panic attacks or  
hospitalization, does not see a counselor  
- Hx of fibromyalgia - not seeing a Rheumatologist  
- Hx of breast cysts  
- Hx of traumatic bilateral pneumothorax in ___ sp MVA 
. 
PAST SURGICAL HISTORY:  
- L knee ACL repair  
- Breast lift  
- Abdominoplasty  

 
Social History:
___
Family History:
Breast cancer: Maternal GM, Maternal Aunt (2), maternal cousin. 
All in ___ and ___. Genetic testing results pending

 
Physical Exam:
Physical exam per post op check note on ___:
VS: HR 80 RR 18 O2 sat 100% on 3L NC  BP 99/61

GEN: NAD, pleasant, conversant 
HEENT: NCAT, EOMI, sclera anicteric
CV: RRR
PULM: no increased work of breathing, comfortable on 3L NC
BREAST: Left breast incision C/D/I, minimal swelling, no
hematoma. Breast tissue warm, well perfused. 
ABD: soft, non-tender, non-distended, no masses or hernia
EXT: Warm, well-perfused, no edema, no tenderness 
NEURO: A&Ox3, no focal neurologic deficits
PSYCH: normal judgment/insight, normal memory, normal 
mood/affect
WOUND: Left axillary incision clean, dry and intact
DRAINS: JP left axilla x1, serosanguinous output, ~30 cc   

 
Brief Hospital Course:
# breast cancer with nodal disease
Patient was taken to the OR with breast surgery and plastic 
surgery and underwent a left axillary nodal dissection as well 
as a tissue expander fill bilaterally and a lymphovenous bypass. 
 Patient tolerated the procedure well and had uneventful 
recovery in PACU and was transferred to floor.  She was given IV 
fluids overnight and slept well by report.  She was given some 
IV morphine PRN overnight to help with pain.  In the morning, 
the patient was switched to a PO regimen of morphine, Tylenol 
and ibuprofen.  Patient was nervous about pain control, but by 
the afternoon, felt pain was well controlled with this regimen 
and was ready for discharge home.  Her vital signs were stable, 
she was voiding freely and her left axillary incision was intact 
with JP draining light serosang fluid.

 
Medications on Admission:
Polyethylene Glycol 17 g PO DAILY  
TraZODone 50 mg PO QHS:PRN insomnia  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Ibuprofen 800 mg PO Q8H 
RX *ibuprofen 800 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*15 Tablet Refills:*0 
3.  Morphine Sulfate ___ ___ mg PO Q4H:PRN Pain - Moderate 
RX *morphine 15 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY  
5.  TraZODone 50 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# breast cancer with nodal disease
# high risk for left upper extremity lymphedema.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Personal Care:  
  1. You may leave your incisions open to air or you may cover 
them with a clean, dry dressing daily.  
  2. Clean around the drain site(s), where the tubing exits the 
skin, with soap and water.  
  3. Strip drain tubing, empty bulb(s), and record output(s) ___ 
times per day.  
  4. A written record of the daily output from each drain should 
be brought to every follow-up appointment. Your drains will be 
removed as soon as possible when the daily output tapers off to 
an acceptable amount.  
  5. You may shower daily. No baths until instructed to do so by 
Dr. ___.  
  .  
  Activity:  
  1. You may resume your regular diet.  
  2. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity until instructed by Dr. ___. 
  3. No lifting of your left arm above shoulder level x 1 week. 
  .  
  Medications:  
  1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered.  
  2. You may take your prescribed pain medication for moderate 
to severe pain. You may switch to Tylenol or Extra Strength 
Tylenol for mild pain as directed on the packaging.    
 3. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish.  
  4.  Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.  
 .  
  Call the office IMMEDIATELY if you have any of the following:  

  1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).  
  2. A large amount of bleeding from the incision(s) or 
drain(s).  
  3. Fever greater than 101.5 oF  
  4. Severe pain NOT relieved by your medication.  
  .  
  Return to the ER if:  
  * If you are vomiting and cannot keep in fluids or your 
medications.  
  * If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.  
  * Any serious change in your symptoms, or any new symptoms 
that concern you.  
  .  
 DRAIN DISCHARGE INSTRUCTIONS  

You are being discharged with drains in place. Drain care is a 
clean procedure. Wash your hands thoroughly with soap and warm 
water before performing drain care. Perform drainage care twice 
a day. Try to empty the drain at the same time each day. Pull 
the stopper out of the drainage bottle and empty the drainage 
fluid into the measuring cup. Record the amount of drainage 
fluid on the record sheet. Reestablish drain suction. 

 
Followup Instructions:
___